US07786108B2
Step 1. Preparation of Methyl 2-nitro-4-trifluoromethylbenzoate
Add concentrated sulfuric acid (120 mL) dropwise to a solution of 2-nitro-4-trifluoromethylbenzoic acid (200 g, 850 mmol) in methanol (2 L) at room temperature under nitrogen and heat the mixture at reflux for 48 h. Cool the solution to room temperature and remove most of the solvent by evaporation at 45° C. under reduced pressure. Pour the turbid residue onto ice/water (2 L) and extract with ethyl acetate (2×1 L). Wash the combined organic extracts with brine (1 L), dry over anhydrous magnesium sulfate, filter and remove the solvent under reduced pressure to provide the title compound as a yellow oil (212.2 g, >99%). 1H NMR (300 MHz, CDCl3) δ 8.21 (s, 1H), 7.95 (d, J=1.13 Hz, 1H), 7.90 (s, 1H), 3.97 (s, 3H).

reactant | sulfuric acid | 120 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-nitro-4-trifluoromethylbenzoic acid | 850 mmol, 200 g | [N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)C(F)(F)F | C8H4F3NO4
reactant | methanol | 2 L | CO | CH4O
product | Methyl 2-nitro-4-trifluoromethylbenzoate | 212.2 g, >99% | [N+](=O)([O-])C1=C(C(=O)OC)C=CC(=C1)C(F)(F)F | C9H6F3NO4
